US05834463
(3aR*,10aS*)-4-((2-aminobenzamido)acetyl)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
A mixture of (3aR*,l0aS*)-4-(aminoacetyl)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta [e][1,4]diazepin-10(1H)-one (420 mg, 1.2 mmol) and isatoic anhydride (196 mg, 1.2 mmol) was stirred for 30 minutes in xylene at 140° C. The reaction mixture was left standing for cooling at room temperature, to which was added hexane (5 mL). The resulting solid was collected by filtration, which was recrystallized from ethanol-hexane to give 345 mg (yield 58%) of the titled compound. This compound was in good agreement in

reactant | (3aR*,l0aS*)-4-(aminoacetyl)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta [e][1,4]diazepin-10(1H)-one | 1.2 mmol, 420 mg | NCC(=O)N1C2=C(N(C([C@@H]3[C@H]1CCC3)=O)CC3=CC=CC=C3)C=CC=C2 | C21H23N3O2
reactant | isatoic anhydride | 1.2 mmol, 196 mg | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | hexane | 5 mL | CCCCCC | C6H14
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | (3aR*,10aS*)-4-((2-aminobenzamido)acetyl)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 345 mg, yield 58% | NC1=C(C(=O)NCC(=O)N2C3=C(N(C([C@@H]4[C@H]2CCC4)=O)CC4=CC=CC=C4)C=CC=C3)C=CC=C1 | C28H28N4O3
